US07612075B2
D. [3-Chloro-1-(toluene-1-sulfonyl)-1H-indol-6-yl]-methanol.
To a solution of 3-chloro-1-(toluene-4-sulfonyl)-1H-Indole-6-carboxylic acid methyl ester (3.10 g, 8.53 mmol) in 50 mL of toluene at −78° C. is added DIBAL (13.8 mL of a 1.5M solution in toluene, 20.8 mmol) dropwise. The mixture is stirred at −78° C. for 2 h, then warmed to room temperature and stirred for 2 hours. The reaction mixture is quenched by the addition of MeOH and washed with saturated disodium tartrate solution. The aqueuos layer is extracted with Et2O. The combined organics are washed with saturated disodium tartrate solution, water and saturated NaCl solution. The organic phase is then dried over anhydrous MgSO4, filtered and concentrated to give the title compound (2.88 g). The crude product is used in the next step without further purification. 1H NMR (CDCl3, 300 MHz) δ8.01 (s, 1H), 7.79 (d, 2H), 7.56 (s, 1H), 7.53 (d, 1H), 7.31 (d, 1H), 7.25 (d, 2H), 4.84 (s, 2H), 2.37 (s, 3H), 1.88 (bs, 1H).

reactant | 3-chloro-1-(toluene-4-sulfonyl)-1H-Indole-6-carboxylic acid methyl ester | 8.53 mmol, 3.10 g | COC(=O)C1=CC=C2C(=CN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)Cl | C17H14ClNO4S
reactant | DIBAL | CC(C)C[AlH]CC(C)C
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | [3-Chloro-1-(toluene-1-sulfonyl)-1H-indol-6-yl]-methanol | 2.88 g | ClC1=CN(C2=CC(=CC=C12)CO)S(=O)(=O)C1(CC=CC=C1)C | C16H16ClNO3S
